US07291643B2
N-[3-cyano-4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]methanesulfonamide
A mixture of methanesulfonyl chloride (0.074 mL, 1 mmol) and 5-(4-amino-2-cyanophenyl)-1-methyl-1H-pyrrole-2-carbonitrile (0.166 g, 0.75 mmol) in pyridine (1 mL) was heated to 50° C. for 4 hours. The reaction mixture was acidified with 1N HCl solution and extracted with ethyl acetate. The combined organic layers were dried over magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (hexane/ethylacetate, 90/10 to 60/40) to afford the title compound (0.059 g, 33%).

reactant | methanesulfonyl chloride | 1 mmol, 0.074 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 5-(4-amino-2-cyanophenyl)-1-methyl-1H-pyrrole-2-carbonitrile | 0.75 mmol, 0.166 g | NC1=CC(=C(C=C1)C1=CC=C(N1C)C#N)C#N | C13H10N4
reactant | HCl | 1N | Cl | ClH
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
product | N-[3-cyano-4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]methanesulfonamide | 0.059 g, 33% | C(#N)C=1C=C(C=CC1C=1N(C(=CC1)C#N)C)NS(=O)(=O)C | C14H12N4O2S
